US07378439B2
Preparation of 4-(2′-phthalimido Ethyl)-1,3-dihydro-2H-indol-2-one (VI)
A 10 L pressure reactor was charged with dry Pd/C (30 gm), 4-(2′-phthalimidoethyl)-3-chloro-1,3-dihydro-2H-indol-2-one (300 gm, 0.882 mol), triethylamine (133 gm, 0.952 mol) and dimethylformamide (6 L). The reaction mixture was hydrogenated at 30-50° C. and 70-75 psi for 2 hours. The catalyst was filtered at 50° C. and filtrate was concentrated in vacuum. Water (1.5 L) was added to residue and slurry was stirred for 30 minutes at 30° C. The solids were filtered at suction and washed with water, and dried in oven at 60-70° C. to give title compound as yellow solid (225 gm, 83.3%).

reactant | 4-(2′-phthalimidoethyl)-3-chloro-1,3-dihydro-2H-indol-2-one | 0.882 mol, 300 gm | C1(C=2C(C(N1CCC1=C3C(C(NC3=CC=C1)=O)Cl)=O)=CC=CC2)=O | C18H13ClN2O3
reactant | triethylamine | 0.952 mol, 133 gm | C(C)N(CC)CC | C6H15N
catalyst | Pd/C | 30 gm | [Pd] | Pd
solvent | dimethylformamide | 6 L | CN(C=O)C | C3H7NO
product | 4-(2′-phthalimido Ethyl)-1,3-dihydro-2H-indol-2-one | 225 gm, 83.3% | C1(C=2C(C(N1CCC1=C3CC(NC3=CC=C1)=O)=O)=CC=CC2)=O | C18H14N2O3
